US06777406B2
(8aR,11aR)-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline, bis-hydrochloride salt
To a solution of (±)-cis ethyl 10-benzyl-8-oxo-5,6,9,10,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-8a(8H)-carboxylate (36.6 g, 93.7 mmol) in 400 mL of 1,4-dioxane was added 400 mL of 3M HCl and the resulting mixture was stirred at 100° C. for 24 h. The dioxane and most of the water was removed in vacuo, and the residue was basified with 1N NaOH and extracted with ethyl acetate. The layers were separated and the organics were washed with brine, dried (MgSO4) and concentrated to afford 28.0 g (94%) of the title compound of Part C, which was sufficiently pure to be used without purification. 1H NMR (CDCl3) δ: 7.25-7.15 (m, 5H), 6.93-6.78 (m, 3H), 4.02-3.93 (m, 1H), 3.78-3.66 (m, 1H), 3.63 (8, 2H), 3.55-3.45 (m, 1H), 3.35 (dd, 1H, J=9.7, 8.3 Hz), 3.20-3.07 (m, 2H), 2.96 (dd, 1H, J=9.5, 5.1 Hz), 2.75-2.68 (m, 2H), 2.32 (app t, 1H, J=9.4 Hz), 1.92-1.82 (m, 2H).

reactant | (±)-cis ethyl 10-benzyl-8-oxo-5,6,9,10,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-8a(8H)-carboxylate | 93.7 mmol, 36.6 g | C(C1=CC=CC=C1)N1C[C@]2(C(N3C4=C(C=CC=C4[C@H]2C1)CCC3)=O)C(=O)OCC | C24H26N2O3
reactant | HCl | 3M, 400 mL | Cl | ClH
solvent | 1,4-dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | (8aR,11aR)-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline, bis-hydrochloride salt | 28.0 g, 94% | Cl.Cl.C1=C2[C@H]3[C@@H](CN4C2=C(C=C1)CCC4)CNC3 | InChI=1S/C14H18N2.2ClH/c1-3-10-4-2-6-16-9-11-7-15-8-13(11)12(5-1)14(10)16;;/h1,3,5,11,13,15H,2,4,6-9H2;2*1H/t11-,13-;;/m1../s1
